US06765006B2
1-Isopropyl-6,7-ethylenedioxy-4-(3,4-ethylenedioxyphenyl)-3,4-dihydroquinazolin-2(1H)-one
This compound was synthesized from N-isopropyl-N-[3,4-(ethylenedioxy)-phenyl]urea (132 mg) and 1,4-benzodioxan-6-carboxaldehyde (113 mg) by the procedure described in example 10 in 14% yield, mp: 92-95° C. 1H NMR (CDCl3): 6.85-6.76 (m, 3H), 6.62 (s, 1H), 6.32 (s, 1H), 5.20 (s, 1H), 4.99 (s, 1H), 4.46 (m, 1H), 4.24 (s, 4H), 4.23-4.17 (m, 4H), 1.56 (d, J=6.9, 3H), 1.54 (d, J=6.9, 3H).

reactant | N-isopropyl-N-[3,4-(ethylenedioxy)-phenyl]urea | 132 mg | C(C)(C)N(C(=O)N)C1=CC2=C(C=C1)OCCO2 | C12H16N2O3
reactant | 1,4-benzodioxan-6-carboxaldehyde | 113 mg | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
product | 1-Isopropyl-6,7-ethylenedioxy-4-(3,4-ethylenedioxyphenyl)-3,4-dihydroquinazolin-2(1H)-one | 14% yield | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCCO3)C3=CC1=C(C=C3)OCCO1)=O | C21H22N2O5
